Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
dysphagia
 
Major Surgical or Invasive Procedure:
PEG placement
Portacath placement

 
History of Present Illness:
History of Present Illness: 
This is a ___ y/o male with esophageal adenocarcinoma amidst 
radiation treatment. Patient was scheduled to receive portacath 
and G-tube placement this ___ with Dr. ___, 
___ was admitted to ___ on ___ with confusion, found 
to be hypoglycemic after taking 40 units of an unidentified type 
of insulin. On presentation to ___, the patient was febrile 
to 100.4 and tachycardic to the 120's. He was given 1L of IV 
fluids and his HR fell to the 70's. CXR revealed possible LLL 
infiltrate from presumed aspiration during the patient's 
hypoglycemic episode. He was given Vanc/Zosyn for empiric 
treatment of aspiration pneumonitis, and given the patient's 
reports of pleuritic chest pain, a CTA was performed and read as 
(-) for PE. His confusion resolved with resolution of his 
hypoglycemia.
.
Of note, the patient's wife reports his inability to eat over 
the past few weeks. He has only been taking liquids by mouth and 
usually is very "dehydrated looking."
.
In ___/urine culture/blood culture were all negative. 
Vanc/Zosyn were discontinued ___ before transfer to ___ 
___ for hopefully expedited PEG placement.
.  
Review of Systems:  
(+) Per HPI  
(-) Review of Systems: GEN: No fever, chills, night sweats, 
recent weight loss or gain. HEENT: No headache, sinus 
tenderness, rhinorrhea or congestion. CV: No chest pain or 
tightness, palpitations. PULM: No cough, shortness of breath, or 
wheezing. GI: No nausea, vomiting, diarrhea, constipation or 
abdominal pain. No recent change in bowel habits, no 
hematochezia or melena. GUI: No dysuria or change in bladder 
habits. MSK:  No arthritis, arthralgias, or myalgias. DERM: No 
rashes or skin breakdown. NEURO: No numbness/tingling in 
extremities. PSYCH: No feelings of depression or anxiety. All 
other review of systems negative.
 
Past Medical History:
ONCOLOGY HISTORY
- Dysphagia in ___ --> EGD --> firm mass occluding lumen
- Biopsy --> invasive adenocarcinoma
- EUS --> exophytic esophageal mass at gastroesophageal junction 
measuring 1 inch in length involving the mucosa, submucosa, and 
muscularis  with invasion beyond the muscularis layer manifested 
by the presence of irregularity of the outer muscularis layer 
margin.
- Staged as T3 N0. 
- PET-CT revealed a markedly FDG avid distal esophageal mass 
with a single FDG avid gastrohepatic lymph node, measuring 8 mm 
in size concerning for nodal metastases.  Smaller celiac nodes 
were noted, but not FDG avid.  There was also a 2.7 cm left 
adrenal nodule that was not FDG avid.
- Received first Taxol/carboplatinum dose on ___, the second 
on ___, and then again on ___. He missed his dose on 
___ due to side effects.
- Has rec'd 6 rounds of XRT, last round on ___.
.
Other past medical history: 
- Diabetes mellitus type 2.
- BPH.
- Hypertension.
- Hyperlipidemia.
- Chronic kidney disease stage III.
 
Social History:
___
Family History:
Per OMR: No significant family history of malignancy. 
 
Physical Exam:
ON ADMISSION:
VS: 101.3 Tm, 122-148/60-84, 87-111, ___, 94-99%RA
I/O: 60 + 1483 (IVF) / 850
GEN: A&Ox3, NAD, cranky disposition
HEENT: PERRL. MMM. no LAD. no JVD. neck supple. No cervical, 
supraclavicular, or axillary LAD, erythematous suprasternal skin
Cards: RR S1/S2 normal. no murmurs/gallops/rubs.
Pulm: No dullness to percussion, CTAB no crackles or wheezes
Abd: BS+, soft, NT, no rebound/guarding, no HSM, no ___ 
sign
Extremities: wwp, no edema. DPs, PTs 2+.
Skin: no rashes or bruising
Neuro: CNs II-XII intact. ___ strength in U/L extremities. DTRs 
2+ ___. sensation intact to LT, cerebellar fxn intact (FTN, HTS). 
gait WNL.
.
ON DISCHARGE:
VS: 95.9-98.9, 104-142/54-80, 95-124, ___, 93-96%RA
I/O: 1247 + 574 (IVF) / 690 +
GEN: A&O x3, NAD, ill-appearing white male sitting still in bed
HEENT: PERRL. MMM. no LAD. no JVD. neck supple. No LAD.
Cards: RR rate tachy S1/S2 normal. no murmurs/gallops/rubs. (+) 
port
Pulm: crackles in lung fields diffusely
Abd: BS+, soft, TTP suprapubic areas bilaterally, mild rebound 
in RLQ/suprapubic area / no guarding, no HSM, (+) PEG, no 
erythema
Extremities: wwp, no edema. DPs, PTs 2+.
Skin: no rashes or bruising
Neuro: CNs II-XII intact. ___ strength UEs. DTRs 2+ ___. 
sensation intact, cerebellar fxn wnl (FTN, HTS). gait WNL.
 
Pertinent Results:
LABS ON ADMISSION:
___ 06:45AM BLOOD WBC-1.5* RBC-3.55* Hgb-10.6* Hct-30.2* 
MCV-85 MCH-29.8 MCHC-35.0 RDW-15.1 Plt Ct-85*
___ 06:45AM BLOOD Hypochr-NORMAL Anisocy-1+ Poiklo-1+ 
Macrocy-1+ Microcy-1+ Polychr-NORMAL Ovalocy-1+ Bite-OCCASIONAL
___ 06:45AM BLOOD Glucose-153* UreaN-12 Creat-1.2 Na-134 
K-3.6 Cl-103 HCO3-19* AnGap-16
___ 06:45AM BLOOD Albumin-3.0* Calcium-8.1* Phos-2.3* 
Mg-1.7
.
LABS OF INTEREST:
___ 06:25AM BLOOD Hapto-97
___ 06:25AM BLOOD LD(LDH)-201
___ 06:25AM BLOOD Neuts-85* Bands-4 Lymphs-5* Monos-5 Eos-0 
Baso-0 ___ Metas-1* Myelos-0
___ 05:30AM BLOOD ___ PTT-27.1 ___
___ 10:48AM BLOOD ALT-16 AST-29 AlkPhos-85 TotBili-0.3
.
LABS ON DISCHARGE:
___ 06:06AM BLOOD WBC-8.0 RBC-3.11* Hgb-9.4* Hct-26.9* 
MCV-87 MCH-30.2 MCHC-34.9 RDW-16.4* Plt Ct-82*
___ 06:06AM BLOOD Glucose-334* UreaN-18 Creat-1.1 Na-134 
K-4.0 Cl-101 HCO3-27 AnGap-10
___ 06:06AM BLOOD Calcium-7.7* Phos-1.8* Mg-2.0
.
STUDIES & IMAGING:
CXR (PORT) ___: In comparison to study of ___, there is 
some increased opacification in the retrocardiac area. Although 
this could well reflect atelectasis and possible small effusion, 
in the appropriate clinical setting, supervening pneumonia would 
have to be considered. The right lung is clear and there is no 
pulmonary vascular congestion.
.
CXR (PORT) ___: Evaluation of the patient with esophageal 
cancer 
after PEG placement with diffuse abdominal pain, evaluate for 
perforation. AP radiograph of the chest was reviewed in 
comparison to ___. Heart size is top normal. 
Mediastinum is unremarkable. The right central venous line tip 
is at the level of mid SVC. There is left basal linear opacity, 
most likely representing atelectasis, unchanged since the prior 
study, associated with small amount of pleural effusion. No 
definitive free intra-abdominal air is noted on the current 
study, but correlation with dedicated upright radiograph or 
decubitus view is highly recommended. No pneumothorax is seen.
.
KUB (PORT) ___: Two AP views of the abdomen in the supine 
and upright positions show a nonspecific bowel gas pattern with 
no intraperitoneal free air. A PEG tube is seen projecting off 
the left side of the patient, but the insertion point cannot be 
visualized. IMPRESSION: No evidence of perforation or 
intraperitoneal free air.
 
Brief Hospital Course:
This is the brief hospital course for an ___ year old male with 
gastroesophageal junction adenocarcinoma who recently finished 
an aggressive chemotherapy and radiation regimen who was 
transferred from ___ for fever and dysphagia who hospital 
course included PEG and port placement as well as pneumonia 
covereage.
.
ACTIVE ISSUES:
# FEVER: Attributed to PNA. Other infectious causes including 
urine, stool, and blood were considered and ruled out. Pt was 
ruled out for C.diff given complaints of diarrhea. He last 
spiked a fever on ___. Patient will be treated for 10 days of 
cefpodoximine. His last dose will be ___. At discharge blood 
cultures from ___ are still pending. Please call ___ 
for results.
.
# TACHYCARDIA: Patient was noted to be in sinus tachycardia to 
110-120s. Initially it was thought to be ___ dehydration and 
fevers. Pain and agitation were also considered and treated 
according. Patient was not hypoxic so PE was thought to be less 
likely. Metoprolol was initially reduced given infection and was 
then retitrated to 37.5mg BID with good response to heart rate.
.
# ADENOCARCINOMA of GE JUNCTION: Patient was essentially 
transferred to ___ to expedite PEG and PORT placement. Patient 
has post operative pain in abdomen. Abdominal and Chest plain 
films were obtained did not show any acute intra-abdominal 
pathology, other than increased stool in lumen. Patient was 
started on an aggressive bowel regimen which resolved abdominal 
pain. Patient ultimately to receive chemotherapy if functional 
status improves. 
.
# PARTICIPATION IN CARE: Patient has a very stubborn 
disposition. He was initially very resistant to go to rehab 
despite recommendations from the medical team. However with 
strong encouragement from family he became amenable. He will 
likely require more encouragement while in rehab. 
.
# DIABETES: After starting tube feeds, patient's fingersticks 
were elevated to 300s. Patient will need further titration of 
insulin to better control diabetes
.
# HYPERTENSION: Patient was initially normotensive while on 
antihypertnesives however then had one epsiode of hypotension 
while in the hospital requiring fluid bolus. Antihypertensives 
were then down titrated however on discharge BP was 150/90. He 
will need further titration of medications while at rehab. 
.  
# CODE STATUS: full code
 
Medications on Admission:
HOME MEDICATIONS ON ADMISSION:
Losartan 50 mg p.o. daily.
Metoprolol 25 mg p.o. b.i.d.
Zofran rapid dissolve 8 mg q. 8 hours.
Zocor 40 mg p.o. daily.
Amitriptyline 10 mg p.o. q.h.s.
Tylenol ___ mg q. 6-hour p.r.n.
Ketoconazole 2% shampoo twice a week.
Clobetasol 0.05% ointment twice a day.
Fexofenadine 60 mg p.o. b.i.d. as needed for allergy symptoms.
Aspirin 81 mg p.o. daily.
Fish oil 1000 mg p.o. daily.
Ascorbic acid once a day.
Glucosamine once a day.
Terazosin 10 mg p.o. once daily.
Novolog 7 units three times a day.
Prochlorperazine 10 mg p.o. q. 6 hours as needed.
Lorazepam 0.5 mg p.o. t.i.d. p.r.n. for anxiety.
.
MEDICATIONS ON TRANSFER from ICU to ONCOLOGY:
- Simvastatin 40mg QHS
- Amitriptyline 10mg QHS
- Neutraphos 2pkt TID
- Aspirin 81mg daily
- Allegra 60mg BID prn
- Lorazepam 0.5mg BID prn
- Ondansetron 8mg SL Q8h prn
- Pantoprazole 40mg daily
- Ondansetron 4mg IV Q8h prn
- MEtoclopramide 5mg Q6h: prn
- Famotidine 20mg daily
- Acetoaminophen 650mg Q6h prn
 
Discharge Medications:
1. simvastatin 40 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).
Disp:*30 Tablet(s)* Refills:*2*
2. amitriptyline 10 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
3. fexofenadine 60 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day) as needed for allergies.  
4. lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime) as needed for insomnia.  
5. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
6. famotidine 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
7. acetaminophen 650 mg/20.3 mL Solution Sig: One (1)  PO Q6H 
(every 6 hours) as needed for pain and/or fever.  
8. polyethylene glycol 3350 17 gram/dose Powder Sig: One (1) 
packet PO DAILY (Daily).  
9. losartan 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
10. terazosin 5 mg Capsule Sig: Two (2) Capsule PO HS (at 
bedtime).  
11. insulin lispro protam & lispro 100 unit/mL (50-50) 
Suspension Sig: ___ (25) units Subcutaneous QAM.  
12. insulin lispro protam & lispro 100 unit/mL (50-50) 
Suspension Sig: ___ (25) units Subcutaneous QPM.  
13. ondansetron 8 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO every eight (8) hours as needed for nausea.  
14. morphine 15 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed for pain.  
15. cefpodoxime 100 mg Tablet Sig: Two (2) Tablet PO Q12H (every 
12 hours) for 17 doses.  
16. metoprolol tartrate 25 mg Tablet Sig: 1.5 Tablets PO twice a 
day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Gastroesophageal junction carcinoma
Malnutrition -> Starvation ketosis
Hypoglycemia
Hypotension
Tachycardia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___, you were admitted to the ICU for a hypoglycemic 
episode. After this resolved, you were transferred to the 
oncology service for evaluation of your malnutrition and 
difficulty swallowing.
.
During the course of your admission, you had several physical 
exam findings which were concerning for infection. One of these 
was fever. Everytime you spiked a fever, you were cultured by 
blood, urine, stool, and even sputum once. All cultures were 
negative to date. X-rays of your chest and belly were also done. 
One chest x-ray indicated a possible pneumonia which was located 
behind your heart on one side, but since you declined further 
imaging, we were left treating the infection blindly without 
knowing its exact cause. Your last day of antibiotics will be on 
___.  Thankfully, your fevers trended downward on the 
antibiotic we chose for you. The other findings were your fast 
heart rate and low blood pressure. Sometimes people who are 
volume down will have vital signs like this, but even after 
giving you fluids in an IV, your vitals remained irregular. 
Hopefully, as you become stronger and we titrate your 
medications closer to the levels you were taking at home this 
will resolve.

You had a PEG placement for nutrition and a port placement for 
future chemotherapy. 

You appeared very weak and need rehab before going home. 

Good luck with your recovery
 
Followup Instructions:
___